* c:\users\ashutosh\esim-workspace\8bit_comparator\8bit_comparator.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ comparator
* u4  net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ less equal greater dac_bridge_3
r3  less gnd 1k
r2  equal gnd 1k
r1  greater gnd 1k
* u7  less plot_v1
* u6  equal plot_v1
* u5  greater plot_v1
* u2  net-_u2-pad1_ net-_u2-pad1_ net-_u2-pad1_ net-_u2-pad1_ net-_u2-pad1_ net-_u2-pad1_ gnd gnd net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ adc_bridge_8
* u3  net-_u3-pad1_ net-_u3-pad1_ net-_u3-pad1_ gnd net-_u3-pad5_ gnd net-_u3-pad5_ net-_u3-pad5_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
v1  net-_u2-pad1_ gnd 5v
v2  net-_u3-pad1_ gnd 5v
v3  net-_u3-pad5_ gnd 5v
a1 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] [net-_u1-pad17_ ] [net-_u1-pad18_ ] [net-_u1-pad19_ ] u1
a2 [net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ ] [less equal greater ] u4
a3 [net-_u2-pad1_ net-_u2-pad1_ net-_u2-pad1_ net-_u2-pad1_ net-_u2-pad1_ net-_u2-pad1_ gnd gnd ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] u2
a4 [net-_u3-pad1_ net-_u3-pad1_ net-_u3-pad1_ gnd net-_u3-pad5_ gnd net-_u3-pad5_ net-_u3-pad5_ ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u3
* Schematic Name:                             comparator, NgSpice Name: comparator
.model u1 comparator(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-03 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(less)
plot v(equal)
plot v(greater)
.endc
.end
